US04540690
A mixture of 2-[4-(trifluoromethyl)benzoyl]cyclohexanone, 5.4 g, 0.02 mole, with 2.28 g, 0.04 mole of azetidine and 25 mg of p-toluenesulfonic acid in 50 ml of benzene was refluxed for 17 hr using a Soxhlet device containing 50 g of 3A molecular sieves. The resulting solution was evaporated, the residue was dissolved in 75 ml of ethanol and hydrogenated in the presence of 0.5 g of platinum dioxide (PtO2) at an initial pressure of 54 psig for 1.5 hr. The mixture was filtered, cooled in ice and treated with 5.4 g of sodium borohydride (NaBH4) and stirred at room temperature for 16 hr. The mixture was then evaporated, the residue taken up in a water/diethyl ether mixture, the ether extract being separated and washed with saturated sodium chloride solution, dried with magnesium sulfate and evaporated. Trituration of the residue with diethyl ether gave 0.76 g (plus filtrate) of the N-[2-[[4-(trifluoromethyl)phenyl](hydroxy)methyl] cyclohexyl]azetidine as a colorless solid, mp 163°-165° C., which was raised to 167°-168° C. on recrystallization from methanol. The UV λmax(ε)216(9,550), 252(382), 258(442), 263(411), 258(307). The IR and Mass spectral analyses were consistent. The NMR (CDCl3) indicated that the product contained a mixture of two diastereoisomers. δ7.6-7.4(m,5H,aromatic) 5.1(m,1H, HC--O), 2.7(m,1H, CH--N), 2.2-1.9(m,3H, CH--C--O and C--CH2 --C of azetidine), 1.9-0.9(m,8H, CH2 's).

reactant | 2-[4-(trifluoromethyl)benzoyl]cyclohexanone | FC(C1=CC=C(C(=O)C2C(CCCC2)=O)C=C1)(F)F | C14H13F3O2
reactant | azetidine | 0.04 mole, 2.28 g | N1CCC1 | C3H7N
reactant | p-toluenesulfonic acid | 25 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-[2-[[4-(trifluoromethyl)phenyl](hydroxy)methyl] cyclohexyl]azetidine | FC(C1=CC=C(C=C1)C(C1C(CCCC1)N1CCC1)O)(F)F | C17H22F3NO
